US07935699B2
3-Cyclopentyl-2-(1,1-dioxo-2,3-dihydro-benzo[b]thiophen-5-yl)-propionic acid methyl ester (184 mg, 0.57 mmol) was dissolved in ethanol (4 mL) and treated with a solution of lithium hydroxide monohydrate (34 mg, 1.43 mmol) in water (1.5 mL) at 25° C. It was stirred at 25° C. until the starting material was all consumed by TLC (˜1 hr). The reaction was then concentrated in vacuo to remove the ethanol. The remaining aqueous layer was then acidified to pH=2 with an aqueous 1N hydrochloric acid solution. This was then extracted with ethyl acetate (3×20 mL), the organic layers combined and dried over magnesium sulfate, filtered and concentrated in vacuo to afford 3-cyclopentyl-2-(1,1-dioxo-2,3-dihydro-benzo[b]thiophen-5-yl)-propionic acid (114 mg, 65%) as a white solid: EI-HRMS m/e calcd for C16H20O4S (M+) 308.1082, observed 308.1075.

reactant | 3-Cyclopentyl-2-(1,1-dioxo-2,3-dihydro-benzo[b]thiophen-5-yl)-propionic acid methyl ester | 0.57 mmol, 184 mg | COC(C(CC1CCCC1)C1=CC2=C(S(CC2)(=O)=O)C=C1)=O | C17H22O4S
reactant | lithium hydroxide monohydrate | 1.43 mmol, 34 mg | O.[OH-].[Li+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | water | 1.5 mL | O | H2O
product | 3-cyclopentyl-2-(1,1-dioxo-2,3-dihydro-benzo[b]thiophen-5-yl)-propionic acid | 114 mg, 65% | C1(CCCC1)CC(C(=O)O)C1=CC2=C(S(CC2)(=O)=O)C=C1 | C16H20O4S
